US08242133B2
A mixture of 0.06 g of 55% sodium hydride (in oil) and 2 ml of DMF was stirred at room temperature. To the mixture, a mixture solution of 0.13g of 2,2,2-trifluoroethanol and 0.5 ml of DMF was added. The mixture solution was stirred at the same temperature for 15 minutes, and then 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole was stirred at room temperature for one hour. Water was added to the reaction mixture, which followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.27 g of 2-[3-(2,2,2-trifluoroethyl)oxypyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 39”).

reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2,2,2-trifluoroethanol | 0.13g | FC(CO)(F)F | C2H3F3O
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
solvent | Water | O | H2O
product | 2-[3-(2,2,2-trifluoroethyl)oxypyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.27 g | FC(COC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)(F)F | C15H8F6N2O2
